US04389410
A mixture of 5-hydroxymethylfurfuraldehyde (0.5 g, 4 mmol) and triphenylphosphine (1.3 g, 5 mmol) in dry carbon tetrachloride (3 ml) was heated at reflux for 30 min and then filtered to give an unstable 1 M solution of 5-chloromethylfurfuraldehyde.

reactant | 5-hydroxymethylfurfuraldehyde | 4 mmol, 0.5 g | OCC1=CC=C(C=O)O1 | C6H6O3
reactant | triphenylphosphine | 5 mmol, 1.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 3 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 5-chloromethylfurfuraldehyde | ClCC1=CC=C(C=O)O1 | C6H5ClO2
